US06706703B2
Sodium borohydride (519.0 mg, 13.73 mmol) was added to an ice-cold solution of 4-t-butyldiphenylsiloxy-2,6-dimethoxybenzaldehyde (3.85 g, 9.15 mmol) in tetrahydrofuran (40 mL), and the mixture was stirred at room temperature for 2 hours and 30 minutes. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford crude 4-t-butyldiphenylsiloxy-2,6-dimethoxybenzyl alcohol as a colorless crystalline powder (melting point: 127.5-129.0° C.) (4.01 g).

reactant | Sodium borohydride | 13.73 mmol, 519.0 mg | [BH4-].[Na+]
reactant | 4-t-butyldiphenylsiloxy-2,6-dimethoxybenzaldehyde | 9.15 mmol, 3.85 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC(=C(C=O)C(=C1)OC)OC | C25H28O4Si
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 4-t-butyldiphenylsiloxy-2,6-dimethoxybenzyl alcohol | 4.01 g | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C1=CC(=C(CO)C(=C1)OC)OC | C25H30O4Si
